* Z:\mnt\spice-netlists\LT1083-5_TA01.asc
V1 IN 0 PWL(0 0 1 10)
Rload OUT 0 .67
C1 OUT 0 22µ
XU1 0 OUT IN LT1083-5
C2 IN 0 10µ
.tran 1
* LT1083-5 - 7.5A Low Dropout Positive Fixed Regulators\n5V, 7.5A Regulator\nInput: >= 6.5V     Output: 5V @ 7.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1083.lib
.backanno
.end
