* Z:\mnt\spice-netlists\LT3651-4_TA01A.asc
R1 N010 0 301K
V1 IN 0 16
C1 N004 N006 1µ
D1 BAT N006 1N5819
L1 N004 N008 6.5µ
R2 N008 BAT 24m
C2 BAT 0 100µ
C§Li-IonBattery BAT 0 1m
XU1 N011 N003 BAT N008 N006 0 N004 0 N007 N005 N001 N009 N001 N001 N001 N012 N010 LT3651-4.2
D2 N002 N001 BZX84C10L
M§Q1 IN N002 N001 N001 Si4401DY
R3 N001 N002 100K
R4 N002 N003 100K
R5 N001 N005 50K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LT3651-4.2 - Monolithic 4A High Voltage 2-Cell Li-Ion Battery Charger\nSingle Cell 4A Charger\nInput: 6.5V to 32V    Outputs: 4.2V @ 4A  Fsw = 182kHz
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.ic V(bat)=2.8
.lib LT3651-4.2.sub
.backanno
.end
