* Z:\mnt\spice-netlists\LT3791-1_TA01A.asc
C1 N026 0 33n
C2 N023 0 10n
V1 IN 0 24
R1 IN N001 3m
R2 IN N005 499K
R3 N005 0 56.2K
R4 N003 N001 51
C3 IN N003 470n
C4 N004 0 4.7µ
R5 IN N007 499K
R6 N007 0 27.4K
R7 N022 0 147K
C5 N021 0 .1µ
M§Q1 N001 N010 N013 N013 RJK0651DPB
M§Q2 N013 N016 N019 N019 RJK0651DPB
L1 N013 N014 10µ
C6 N008 N013 .1µ
D1 N004 N008 BAT46WJ
C7 N006 N014 .1µ
D2 N004 N006 BAT46WJ
M§Q3 N002 N011 N014 N014 RJK0451DPB
M§Q4 N014 N017 N019 N019 RJK0451DPB
R8 N019 0 4m
R9 OUT N025 73.2K
R10 N025 0 3.83K
R11 N002 OUT 15m
C8 N002 0 4.7µ x2
XU1 N021 N026 N021 N020 N018 N021 N015 N012 N005 IN N003 N001 N004 N010 N008 N013 0 N016 N017 MP_01 N014 N006 MP_02 N011 N002 OUT N019 0 MP_03 0 N024 N020 N009 0 N022 N023 N025 N007 LT3791-1
C9 N002 0 220µ
R12 N004 N018 200K
R13 N004 N020 100K
R14 N021 N026 100K
Rload OUT 0 4.8
C11 N001 0 47µ
C12 N001 0 4.7µ
C10 N001 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* LT3791-1 - 60V 4-Switch Synchronous Buck-Boost Controller\n120W Buck-Boost Voltage Regulator\nInput: 12V to 58V     Output: 24V @ 5A Fsw = 200kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3791-1.sub
.backanno
.end
