* Z:\mnt\spice-netlists\LT3466-1_TA06A_DC915A.asc
R1 N003 0 26.7K
R2 N004 0 63.4K
L1 IN N002 33µ
V1 IN 0 4
C1 OUT2 0 1µ
R3 OUT2 N003 475K
XU1 OUT2 N002 IN MP_01 MP_02 MP_03 MP_04 N004 IN N003 0 LT3466-1
C2 IN 0 1µ
C3 N001 N002 0.1µ
C4 OUT3 0 1µ
D1 OUT3 N001 BAT54
D2 N001 0 BAT54
Rload2 OUT2 0 1.5K
Rload3 OUT3 0 1.5K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
* -15V @ 10mA
* +15V @ 10mA
* Only Ch2 of LT3466-1 is simulated\nFor Ch1 simulation, refer to LT3466
* LT3466-1 - White LED Driver and Boost Converter\nLi-Ion to ±15V TFT LCD Bias Supply\nInput: 3V to 14V       Output: +15V @ 10mA & -15V @ 10mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT3466-1.sub
.backanno
.end
