* Z:\mnt\spice-netlists\LT3756-2_TA05C.asc
C1 N001 0 4.7µ
L1 N012 N018 33µ
V1 IN 0 50
R1 IN N002 1Meg
R2 N002 0 61.9K
C2 N014 0 .001µ
M§Q1 N018 N006 N009 N009 Si4982DY
D1 N010 N012 LXK2-PW14 N=5
C3 N017 0 .01µ
R3 N020 0 28.7K
V2 N021 0 PULSE(3.3 0 2.5m 1u 1u 125u 250u)
XU1 N008 N021 N005 N017 N020 N002 N001 IN N009 N006 N007 N016 N003 IN N015 N008 0 LT3756
R4 N001 N005 100K
C4 IN 0 1µ x2
R5 IN N004 1.5K
Q2 N004 N007 N019 0 2N3904
R6 N019 0 1K
M§Q3 N010 N004 N003 N003 Si4835DY
R7 IN N003 .1
R8 N015 N014 47K
R9 N009 0 33m
Q4 N016 N013 N011 0 2N3906
R10 N013 N012 200K
D2 N018 IN MBRS1100
C5 IN 0 4.7µ
R11 N016 0 20K
R12 IN N013 200K
R13 IN N011 200K
C6 N012 IN 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3756-2 - 100Vin, 100Vout LED Controller\nBuck Mode 1A LED Driver with High Dimming Ratio and Open LED Reporting\nInput: 24V to 80V     Output: 1A through 5 White LEDS
.lib LT3756.sub
.backanno
.end
