* Z:\mnt\spice-netlists\LT3651-8_V23N1F5.asc
R1 N011 OUT 24m
L1 N009 N011 3.3µ
C1 N009 N010 1µ
R2 N007 IN 90.9K
R3 0 N007 12.1K
R4 N012 0 54.9K
C2 N005 0 22µ
D1 OUT N010 1N5819
R5 N002 IN 100K
R6 0 N002 61.9K
R7 IN N001 10K
C3 N002 IN 100p
Q1 N001 N001 N003 0 2N3904
Q2 IN N002 N004 0 2N3904
D2 0 N001 BZX84C6V2L
D3 N001 N002 1N914
C4 OUT 0 22µ
VBAT OUT 0 7
D4 N002 N001 1N914
R8 N005 N006 100K
D5 N006 IN BZX84C10L
R9 N008 N006 10K
XU1 NC_01 N008 OUT N011 N010 0 N009 0 NC_02 NC_03 N007 0 N003 N004 N005 NC_04 N012 LT3651-8.4
M§Q3 IN N006 N005 N005 Si4427DY
I1 0 IN PWL(0 0 .5m 2 1m 0)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
* Solar Panel
* LT3651 - 8.4 - Monolithic 4A High Voltage 2-Cell Li-Ion Battery Charger\n4A, 2-Cell Charger with Maximum Power Point Control\nInput: 16V to 32V, 6.2 Input Current Limit    Outputs: 8.4V @ 4A
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LT3651-8.4.sub
.backanno
.end
