* Z:\mnt\spice-netlists\LT1111.asc
L1 IN N001 22µ
D1 N001 OUT MBRS130L
Iload OUT 0 100m
V1 IN 0 3
XU1 IN IN N001 0 0 N002 N003 OUT LT1111 top=220K bot=73.5K
C2 OUT 0 33µ
C1 IN 0 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1111 -   72kHz µPower DC/DC Converter\nInput: 3V     Output: 5V @ 100mA
.lib LT1111.sub
.backanno
.end
