* Z:\mnt\spice-netlists\LT1173.asc
R2 N003 0 124K
R1 OUT N003 1070K
L1 IN N001 100µ
D1 N001 OUT 1N5817
C2 OUT 0 100µ
C1 IN 0 10µ
Iload OUT 0 100m
V1 IN 0 5
XU1 N002 IN N001 0 0 MP_01 MP_02 N003 LT1173 top=1K bot=1T
R3 IN N002 47
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 15m startup
* LT1173 - µPower DC/DC Converter 12V Step-Up with External Programmed Current Limit \nInput: 5V    Output: 12V @ 100mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1173.sub
.backanno
.end
