* Z:\mnt\spice-netlists\LT1376.asc
R1 N005 0 2.43K
D1 0 N002 MBRS340
D2 OUT N001 1N4148
C1 N001 N002 .1µ
C2 OUT 0 100µ
C3 IN 0 4.7µ
L1 N002 OUT 5.6µ
V1 IN 0 10
C4 N003 0 2200p
R2 N004 N003 10K
R3 OUT N005 2.61K
R4 OUT 0 5
XU1 N001 IN N002 OUT NC_01 0 N005 N004 LT1376 top=10 bot=1T
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
* LT1376 - 1.5A, 500kHz Step-Down Switching Regulators\nInput: 10V      Output: 5V @ 1A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1376.sub
.backanno
.end
