* Z:\mnt\spice-netlists\LT1377.asc
L1 IN N001 4.7µ
D1 N001 OUT MBRS340
R1 OUT N003 53.6K
R2 N003 0 6.19K
R3 N004 N005 3.9K
C1 OUT 0 22µ
C2 0 N004 0.047µ
C3 0 N005 .0047µ
V1 IN 0 5
I1 OUT 0 350m load
XU1 N005 N003 N006 N002 IN MP_01 0 N001 LT1377
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT1377 - 1MHz High Efficiency 1.5A Switching Regulator\nInput: 5V     Output: 12V @ 0.35A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LT1377.sub
.backanno
.end
