* Z:\mnt\spice-netlists\LT1613.asc
V1 IN 0 5
R1 OUT N002 107K
R2 N002 0 12.3K
L1 IN N001 10µ
Iload OUT 0 130m
D1 N001 OUT MBR0520L
XU1 N001 0 N002 IN IN LT1613
C3 OUT 0 4.7µ
C1 IN 0 4.7µ
C2 OUT N002 200p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1613 -  1.4MHz Single Cell DC/DC Converter\nInput: 5V     Output: 12V @ 130mA
.lib LT1613.sub
.backanno
.end
