* Z:\mnt\spice-netlists\LT1616.asc
C1 N001 N002 .01µ
L1 N002 OUT 10µ
R1 OUT N004 16.5K
R2 0 N004 10K
D1 0 N002 MBR0530L
D2 OUT N001 1N4148
V1 IN 0 12
C2 OUT 0 10µ
XU1 N001 0 N004 N003 IN N002 LT1616
C3 N003 0 1µ
R3 IN N003 15K
C4 IN 0 1µ
R4 OUT 0 11
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LT1616 -   600mA 1.4MHz Step-Down Switching Regulator\nInput: 12V     Output: 3.3V @ 300mA
.lib LT1616.sub
.backanno
.end
